US07319170B2
Step C: Preparation of N-[(cyclohexylamino)carbonyl]-4-[3-(4-phenoxy-2-propylphenoxy)propoxy]benzenesulfonamide
To a solution of 4-[3-(4-phenoxy-2-propyl phenoxy)propoxy]benzenesulfonamide (0.045 g, 0.102 mmol) and acetone (3 mL) was added potassium carbonate (0.028 g, 0.204 mmol). To the resulting suspension was added cyclohexyl isocyanate (0.026 mL, 0.204 mmol) dropwise. The reaction suspension was then stirred in a 65° C. oil bath for 6 h. After cooling to room temperature, the reaction was concentrated to a residue. The residue was partitioned between ethyl acetate and water. The ethyl acetate phase was dried over sodium sulfate, filtered, and concentrated to an oil. The oil was chromatographed over silica gel with hexanes/ethyl acetate (4:1) and hexanes/ethyl acetate (3:1) to obtain the title compound.

reactant | 4-[3-(4-phenoxy-2-propyl phenoxy)propoxy]benzenesulfonamide | 0.102 mmol, 0.045 g | O(C1=CC=CC=C1)C1=CC(=C(OCCCOC2=CC=C(C=C2)S(=O)(=O)N)C=C1)CCC | C24H27NO5S
reactant | potassium carbonate | 0.204 mmol, 0.028 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexyl isocyanate | 0.204 mmol, 0.026 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | N-[(cyclohexylamino)carbonyl]-4-[3-(4-phenoxy-2-propylphenoxy)propoxy]benzenesulfonamide | C1(CCCCC1)NC(=O)NS(=O)(=O)C1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1)OC1=CC=CC=C1)CCC | C31H38N2O6S
